US09422359B2
The eluted T4L-β2AR-Δ-ICL3 was further purified by affinity chromatography using alprenolol-Sepharose as previously described 3 in order to isolate functional T4L-β2AR-Δ-ICL3 from non-functional protein. HHS buffer (350 mM NaCl, 20 mM HEPES pH 7.5, 0.1% DDM) supplemented with 300 μM alprenolol and a saturating concentration of cholesterol hemisuccinate was used to elute the protein. The eluted T4L-β2AR-Δ-ICL3 bound with alprenolol was then re-applied to M1 resin, allowing exchanging alprenolol with carazolol in HHS buffer supplemented with 30 nM carazolol. T4L-β2AR-Δ-ICL3 bound with carazolol was then eluted from M1 resin with HHS buffer supplemented with 5 mM EDTA, 200 μg/ml free FLAG peptide and saturating concentration of cholesterol hemisuccinate. The FLAG epitope tag of T4L-β2AR-Δ-ICL3 was removed by the treatment of tobacco etch virus (TEV) protease (invitrogen) for 3 hs at room temperature or overnight at 4° C. The untagged T4L-β2AR-Δ-ICL3-cazazolol complex was then further purified by chromatography (SEC) using S200 column (GE healthcare) equilibrated in 100 mM NaCl, 10 mM HEPES pH 7.5, 0.1% DDM and 1 nM carazolol. The same buffer was used as the running buffer for SEC. The purity of the final T4L-β2AR-ΔICL3 is more than 90% according to the result of SDS-PAGE electrophoresis.

reactant | NaCl | 350 mM | [Na+].[Cl-]
reactant | HEPES | 20 mM, pH 7.5 | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | alprenolol | 300 μM | CC(C)NCC(COC=1C=CC=CC1CC=C)O | C15H23NO2
reactant | cholesterol hemisuccinate | C(CCC(=O)O)(=O)O.CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C
product | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+] | InChI=1S/C12H26O4S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;/h2-12H2,1H3,(H,13,14,15);/q;+1/p-1
